US07612060B2
Step (i): Synthesis of (R)-5(4-(((R)-3-oxo-1-(4-methylbenzenesulfonyl)-1,2,3,4-tetra-hydropyrazin-2-yl)methyl)-1H-1,2,3-triazol-1-yl)-5,6,7,8-tetrahydronaphthalen-2-carbaldehyde (63)
(R)-3-(Prop-2-ynyl)-4-(4-methylbenzenesulfonyl)-3,4-dihydropyrazin-2(1H)-one (2.5 mmol, 1.0 eq) and (R)-5-azido-5,6,7,8-tetrahydronaphthalene-2-carbaldehyde (2.5 mmol, 1 eq) were placed in t-BuOH to stir. An aqueous solution of sodium ascorbate (600 μL, 0.1 eq) was added, followed by the addition of an aqueous solution of CuSO4.5H2O (600 μL, 0.1 eq). The reaction mixture was allowed to stir overnight. The solvents were removed and the residue was purified by SiO2 (1 to 5% MeOH in DCM) to afford the title compound. MS (m/z): 492.4 (m+H).

reactant | (R)-3-(Prop-2-ynyl)-4-(4-methylbenzenesulfonyl)-3,4-dihydropyrazin-2(1H)-one | 2.5 mmol, 1.0 eq | C(C#C)[C@@H]1C(NC=CN1S(=O)(=O)C1=CC=C(C=C1)C)=O | C14H14N2O3S
reactant | (R)-5-azido-5,6,7,8-tetrahydronaphthalene-2-carbaldehyde | 2.5 mmol, 1 eq | N(=[N+]=[N-])[C@H]1C=2C=CC(=CC2CCC1)C=O | C11H11N3O
reactant | sodium ascorbate | 600 μL, 0.1 eq | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
solvent | t-BuOH | CC(C)(C)O | C4H10O
product | (R)-5(4-(((R)-3-oxo-1-(4-methylbenzenesulfonyl)-1,2,3,4-tetra-hydropyrazin-2-yl)methyl)-1H-1,2,3-triazol-1-yl)-5,6,7,8-tetrahydronaphthalen-2-carbaldehyde | O=C1[C@H](N(C=CN1)S(=O)(=O)C1=CC=C(C=C1)C)CC=1N=NN(C1)[C@H]1C=2C=CC(=CC2CCC1)C=O | C25H25N5O4S
